US09387262B2
Synthesis of Boc-Dap(Fmoc)-N-palmityl-N-oleyl-amide [#3]
521 mg (1.06 mmol)N-oleyl-palmitylamine in 10 ml anhydrous dichloromethane are dissolved in a 50 ml round-bottom flask and 289 mg (1.17 mmol) EEDQ are added. Subsequently, 500 mg (1.17 mmol) Boc-Dap(Fmoc)-OH are added under steering and the mixture is steered at room temperature for 20 hours. The solution is transferred with 80 ml dichloromethane into a separating funnel and washed three times with 20 ml 0.1 N HCl each and once with 20 ml saturated NaHCO3 solution. After drying over Na2SO4 the solvent is removed using a rotary evaporator (FIG. 4). A yellowish viscous oil is obtained which is not further purified. In thin layer chromatography using hexane/ethylacetate of 1:1 a Rf of 0.70 was observed.

reactant | N-oleyl-palmitylamine | 1.06 mmol, 521 mg | C(CCCCCCC\C=C/CCCCCCCC)NCCCCCCCCCCCCCCCC | C34H69N
reactant | EEDQ | 1.17 mmol, 289 mg | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | Boc-Dap(Fmoc)-OH | 1.17 mmol, 500 mg | N([C@@H](CNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C23H26N2O6
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Boc-Dap(Fmoc) N-palmityl-N-oleyl-amide | N([C@@H](CNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C.C(CCCCCCCCCCCCCCC)[N-]CCCCCCCC\C=C/CCCCCCCC | InChI=1S/C34H68N.C23H26N2O6/c1-3-5-7-9-11-13-15-17-19-20-22-24-26-28-30-32-34-35-33-31-29-27-25-23-21-18-16-14-12-10-8-6-4-2;1-23(2,3)31-22(29)25-19(20(26)27)12-24-21(28)30-13-18-16-10-6-4-8-14(16)15-9-5-7-11-17(15)18/h17,19H,3-16,18,20-34H2,1-2H3;4-11,18-19H,12-13H2,1-3H3,(H,24,28)(H,25,29)(H,26,27)/q-1;/b19-17-;/t;19-/m.0/s1
